US07612211B2
D. N,N-dimethyl-2-hydroxy-2-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-acetamide (Cpd 148)
To a solution of hydroxy-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-acetic acid (0.030 g, 0.0678 mmol) in DMF (0.5 mL) was added (benzotriazo-1-yloxy)tris(dimethylamino)phosphonium hexafluorophosphate (BOP) (0.033 g, 0.0745 mmol), diisopropylethylamine (DIPEA) (0.05 mL, 0.272 mmol), and dimethylamine (0.05 mL, 0.102 mmol, 2.0M solution in THF). After stirring for 12 hours, the crude product was purified by chromatography (silica, CH2Cl2: MeOH, 5:1) to afford the title compound as a white solid (0.028 g, 83%). 1H NMR (400 MHz, CD3OD) δ (ppm): 7.71-7.67 (m, 2H), 7.63 (d, 2H, J=8.4 Hz), 7.41-7.37 (m, 5H), 7.25 (d, 2H, J=8.8 Hz), 5.46 (s, 2H), 5.24 (s, 1H), 2.85 (s, 3H), 2.36 (s, 3H). Mass Spectrum (LCMS, ESI pos.) Calcd. For C25H23F3N3O3: 470.5 (M+H), Found 470.3.

reactant | hydroxy-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-acetic acid | 0.0678 mmol, 0.030 g | OC(C(=O)O)C1=C(C=CC=C1)C1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1 | C23H17F3N2O4
reactant | diisopropylethylamine | 0.272 mmol, 0.05 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylamine | 0.102 mmol, 2.0M, 0.05 mL | CNC | C2H7N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N,N-dimethyl-2-hydroxy-2-{2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-phenyl}-acetamide | 0.028 g, 83% | CN(C(C(C1=C(C=CC=C1)C1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1)O)=O)C | C25H22F3N3O3
